US05130335
3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthoic acid
A mixture of 8.2 g (0.0336 mol) of 2-acetyl-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene, 90 ml of 1.19M (0.107 mol) aqueous sodium hypochlorite and 10 ml of dioxane was stirred at room temperature for 0.5 hours and at 60° C. for 2 hours. A further 70 ml of 1.19M (0.0833 mol) of aqueous sodium hypochlorite was then added to the reaction mixture and the mixture stirred at 70° C. for 1 hours. The reaction mixture was then cooled and treated with aqueous sodium bisulfite solution until the mixture was negative to starch/iodide paper. The mixture was washed with ether and then acidified with H2SO4. The mixture was extracted with three portions of ether and the ether extracts were then combined and washed successively with water and saturated NaCl solution and then dried (MgSO4). The ether solution was then concentrated and the title compound obtained as colorless crystals by recrystallization from cold ether.

reactant | 2-acetyl-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 0.0336 mol, 8.2 g | C(C)(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C17H24O
reactant | sodium hypochlorite | 0.107 mol, 1.19M | Cl[O-].[Na+]
reactant | sodium hypochlorite | 0.0833 mol, 1.19M | Cl[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthoic acid | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)O | C16H22O2
